US04895840
A solution of 2-chloroethyl-4-nitrophenylsulfone in isopropylamine is stirred at room temperature for about 72 hr. The isopropylamine is removed by evaporation, and the residue is dissolved with agitation in a mixture of methylene chloride and dilute sodium hydroxide. The methylene chloride layer is extracted with dilute sodium hydroxide, and dried over magnesium sulfate. The solvent is removed by evaporation to give 1-methyl-N-[2-[(4-nitrophenyl)sulfonyl]ethyl]ethanamine as an oil.

reactant | 2-chloroethyl-4-nitrophenylsulfone | ClCCC1=C(C=CC(=C1)[N+](=O)[O-])S(=O)(=O)C1=C(C=C(C=C1)[N+](=O)[O-])CCCl | C16H14Cl2N2O6S
solvent | isopropylamine | C(C)(C)N | C3H9N
product | 1-methyl-N-[2-[(4-nitrophenyl)sulfonyl]ethyl]ethanamine | CC(C)NCCS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C11H16N2O4S
